US06117875
A mixture of 3-vinylaniline (8 g), 2-chloro-3-nitropyridine (10.7 g) and potassium carbonate (18.6 g) in dioxane (80 ml) was stirred under reflux for 5 days. The reaction was extracted with chloroform, washed with water, dried over magnesium sulfate and evaporated. After evaporation of the solvent, crude residue was crystallized from methanol to give 2-(3-vinylphenylamino)-3-nitropyridine as an orange crystals (12.9 g).

reactant | 3-vinylaniline | 8 g | C(=C)C=1C=C(N)C=CC1 | C8H9N
reactant | 2-chloro-3-nitropyridine | 10.7 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 18.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2-(3-vinylphenylamino)-3-nitropyridine | 12.9 g | C(=C)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C13H11N3O2
